US06534499B2
(1S)-1-Benzyl-2-(4-methylpiperazin-1-yl) ethylamine (Reference Compound 1-1)
Lithium aluminum hydride (531 mg) was suspended in anhydrous ether (14 ml) with ice cooling in the nitrogen gas atmosphere and then a solution of 1-[(2S)-2-amino-3-phenylpropionyl]-4-methylpiperazine (1.48 g) in anhydrous tetrahydrofuran (7 ml) was dropwise added to the resulting suspension. The reaction system was stirred at room temperature for 4 hours. Ethyl acetate was gradually dropwise added to the reaction liquid with ice cooling till the reaction system did not undergo foaming any more. Then a 2N sodium hydroxide aqueous solution was added to the reaction system and the resulting mixture was extracted with chloroform. The resulting organic phase was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give the title compound (Reference Compound 1-1, 1.25 g).

reactant | Lithium aluminum hydride | 531 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[(2S)-2-amino-3-phenylpropionyl]-4-methylpiperazine | 1.48 g | N[C@H](C(=O)N1CCN(CC1)C)CC1=CC=CC=C1 | C14H21N3O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ether | 14 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (1S)-1-Benzyl-2-(4-methylpiperazin-1-yl) ethylamine | 1.25 g | C(C1=CC=CC=C1)[C@@H](CN1CCN(CC1)C)N | C14H23N3
